US08802864B2
b) 1,1-dimethylethyl (3S)-3-[2-(2-{[(4-bromo-2-fluorophenyl)amino]carbonyl}hydrazino)-2-oxoethyl]-1-pyrrolidinecarboxylate
A solution of 1,1-dimethylethyl (3S)-3-(2-hydrazino-2-oxoethyl)-1-pyrrolidinecarboxylate (6.58 mmol) in dichloromethane (15 mL) was cooled to 0° C. and was treated drop-wise with 4-bromo-2-fluoro-1-isocyanatobenzene (6.58 mmol). The reaction was allowed to warm to room temperature, and after ˜30 min a white solid had formed. The reaction contents were concentrated to dryness in vacuo. No further purification was carried out on the resulting white solid (3.01 grams, 100%). MS(ES)+ m/e 459/461 [M+H]+ (bromide isotope pattern).

reactant | 1,1-dimethylethyl (3S)-3-(2-hydrazino-2-oxoethyl)-1-pyrrolidinecarboxylate | 6.58 mmol | N(N)C(C[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C11H21N3O3
reactant | 4-bromo-2-fluoro-1-isocyanatobenzene | 6.58 mmol | BrC1=CC(=C(C=C1)N=C=O)F | C7H3BrFNO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (3S)-3-[2-(2-{[(4-bromo-2-fluorophenyl)amino]carbonyl}hydrazino)-2-oxoethyl]-1-pyrrolidinecarboxylate | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O)F | C18H24BrFN4O4
